US09260423B2
2-((4R,6S)-2,2-Dimethyl-6-((1-methyl-1H-tetrazol-5-ylthio)methyl)-1,3-dioxan-4-yl) acetic acid methyl ester
1-Methyl-1H-tetrazole-5-thiol (5-mercapto-1-methyltetrazole, 23.3 g, 200 mmol) was added to 28.8 g of NaOH-32% and 22.0 g of water. Then (4R,6S)-6-(chloromethyl)-4-hydroxytetrahydropyran-2-one (EP 1404844, 32.9 g, 200 mmol) was added in 1 h at 25-30° C., keeping the pH between 12-12.5 by addition of NaOH-32%. The reaction mixture was stirred at 20-25° C. for 2 h. Then 200 mL of methanol was added and the pH adjusted with concentrated aqueous HCl to 0.7-0.8. The reaction was stirred for 20 h and the pH adjusted to −0.5 with concentrated aqueous HCl. Then methanol/water was removed by distillation under vacuum to give thick oil. To this oil 200 mL of methanol was added, stirred for 1 h and concentrated again. Then 150 mL of methanol was added. The precipitated salts were removed by filtration. The methanol was removed again by distillation under vacuum. Next 320 mL of toluene and 200 mL of 5% aqueous NaCl was added to the residue. The organic layer was separated and about 75 mL removed by distillation. To the clear solution was added methanesulphonic acid (0.96 g, 10 mmol) and 2,2-dimethoxy propane (31.2 g, 300 mmol). The mixture was stirred for approximately 20 h at 20-25° C. Then 200 mL of 0.5 N aqueous NaOH was added. The phases were stirred, separated and the organic phase washed with water (1×100 mL). After concentration of the organic phase, the title compound was obtained as a liquid. 1H NMR (300 MHz, CDCl3) δ 4.40-4.22 (m, 2H), 3.92 (s, 3H), 3.68 (s, 3H), 3.40 (dd, 2H), 2.48 (dd, 2H), 1.74 (dt, 1H), 1.42 (s, 3H), 1.39-1.29 (m, 1H), 1.35 (s, 3H).

reactant | 1-Methyl-1H-tetrazole-5-thiol | 200 mmol, 23.3 g | CN1N=NN=C1S | C2H4N4S
reactant | NaOH | 28.8 g | [OH-].[Na+]
reactant | (4R,6S)-6-(chloromethyl)-4-hydroxytetrahydropyran-2-one | 200 mmol, 32.9 g | ClC[C@@H]1C[C@H](CC(O1)=O)O | C6H9ClO3
reactant | HCl | Cl | ClH
reactant | methanesulphonic acid | 10 mmol, 0.96 g | CS(=O)(=O)O | CH4O3S
reactant | 2,2-dimethoxy propane | 300 mmol, 31.2 g | COC(C)(C)OC | C5H12O2
reactant | NaOH | 0.5 N, 200 mL | [OH-].[Na+]
solvent | methanol | 200 mL | CO | CH4O
solvent | methanol | 200 mL | CO | CH4O
solvent | water | 22.0 g | O | H2O
product | 2-((4R,6S)-2,2-Dimethyl-6-((1-methyl-1H-tetrazol-5-ylthio)methyl)-1,3-dioxan-4-yl) acetic acid methyl ester | COC(C[C@@H]1OC(O[C@@H](C1)CSC1=NN=NN1C)(C)C)=O | C12H20N4O4S
